Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
tetracycline / codeine / BuSpar
 
Attending: ___.
 
Chief Complaint:
Worsening back pain and fecal incontinence.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH recently admitted under neurosurgery
___ with severe low back pain and fecal incontinence,
found to have severe L1-L2 stenosis with retrolisthesis who
deferred surgery until after the holidays returned to ___ today
with worsening back pain and worsening fecal incontinence. 

The patient was discharged with home ___ and TLSO brace when OOB;
the patient reports that she did not wear brace initially after
discharge.  She reports pain from her left groin radiating to 
her
back, cramping of left calf at rest, worsening leakage of stool
with voiding.  She was admitted to the neuroscience floor for 
close monitoring. 

 
Past Medical History:
HTN, DM, HLD, MI s/p cardiac stent on Plavix, Depression,
gastric ulcer, Bilateral knee replacements about ___ yrs ago and
back surgeries x2 with posterior fusion 5 and ___ years ago. 

 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Gen: WD/WN, appears uncomfortable lying on stretcher
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G

Moves all extremities full strength with giveway weakness to LLE
due to pain.
Sensation: Intact to light touch bilaterally. No ___. No
clonus.

Reflexes: B  Br Pa  Ac
Right     0  1+ Abs Abs
Left      1+  1+ Abs Abs

Propioception intact.
Toes downgoing bilaterally.

PHYSICAL EXAMINATION ON DISCHARGE:

PHYSICAL EXAMINATION ON ADMISSION:
Gen: WD/WN
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF     IP    Q  H     AT    ___    G
* pain limited

Sensation: Intact to light touch bilaterally. No ___. No
clonus.

Propioception intact.
Toes downgoing bilaterally.

 
Pertinent Results:
___ - CT Lumbar Spine:
1. Status post laminectomy and posterior fusion of L3 through L5 
without 
definite evidence of hardware related complications.  Note is 
made of that the left L5 pedicle screw which appears to extrude 
beyond the vertebral body by 11mm. 
2. Severe degenerative disc disease at L1/L2 causing severe 
spinal canal 
stenosis. 
3. Bilateral punctate renal stones with mild fullness of the 
right renal 
collecting system. 

 
Brief Hospital Course:
The patient was admitted to the neuroscience floor on ___ 
with worsening lumbar back pain and worsening fecal incontinence 
for close monitoring.

On ___, the patient remained neurologically stable. She 
remained on bedrest as her TLSO brace was not present. 

On ___, the patient remained neurologically stable. Her pain 
was better controlled today. She is pending arrival of the TLSO 
brace that her family will provide. 

On ___, the patient remained hemodynamically and 
neurologically stable.  Her pain continued to be well 
controlled.  She was non-compliant with bedrest restrictions and 
was re-educated by nursing staff on the need to avoid raising 
her HOB above 30 degrees until the TLSO brace is present.  

On ___, patient remains hemodynamically and neurologically 
stable. Patients TLSO brace arrived and patient is appropriate 
to be discharged to ___ with return to ___ on ___ for 
schedules spine surgery. Patient is un understanding the 
importance of compliance with TLSO brace. 
 
Medications on Admission:
Metoprolol, Nitro SL prn,  aspirin, Plavix, Alprazolam, Lipitor, 
Metformin Flexeril, Colace,   Prozac Imdur, Tramadol, and 
Protonix
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
RX *alprazolam 0.5 mg 1 tablet(s) by mouth twice a day as needed 
for anxiety Disp #*10 Tablet Refills:*0
3. Atorvastatin 40 mg PO QPM 
4. Cyclobenzaprine 5 mg PO TID:PRN muscle spasm 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth TID PRN Disp #*30 
Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
6. Fluoxetine 20 mg PO DAILY 
7. Heparin 5000 UNIT SC BID 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. Nicotine Patch 14 mg TD DAILY 
11. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 3 hours as 
needed for pain Disp #*90 Capsule Refills:*0
12. Pantoprazole 40 mg PO Q12H 
13. Senna 17.2 mg PO QHS:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Spinal Stenosis with L1 retrolisthesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Activity
• You must wear a TLSO brace at all times when out of bed.
• You may put on the TLSO while sitting at the edge of the bed 
as instructed by physical therapy.
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your surgery.
• You make take leisurely walks and slowly increase your 
activity as directed by a physical therapist.  
• No driving while taking any narcotic or sedating medication. 
Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

 
Followup Instructions:
___